US08486952B2
A solution of 2,4-dichloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine (150 mg, 0.566 mmol) and excess azetidine (162 mg, 2.83 mmol) in methanol (1 mL) was stirred at rt for 30 min. The solvent was removed in vacuum to afford 4-(azetidin-1-yl)-2-chloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine (162 mg, 0.567 mmol, 100% yield). LC-MS (M+H)+=286.3.

reactant | 2,4-dichloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.566 mmol, 150 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)Cl | C13H10Cl2N2
reactant | azetidine | 2.83 mmol, 162 mg | N1CCC1 | C3H7N
solvent | methanol | 1 mL | CO | CH4O
product | 4-(azetidin-1-yl)-2-chloro-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine | 0.567 mmol, 162 mg, 100% yield | N1(CCC1)C=1C2=C(N=C(N1)Cl)C(CC2)C2=CC=CC=C2 | C16H16ClN3
